US08222248B2
To a solution of 4-amino-benzoic acid methyl ester (1 g) in 10 mL of acetic acid and 10 mL of CH2Cl2 was added benzyltrimethylammonium dichloroiodate (2.763 g) at ambient temperature. The reaction mixture was heated at 55° C. for 1.5 h. The reaction mixture was concentrated to give the crude 4-amino-3-iodo-benzoic acid methyl ester: MS (m/z) 278.0 (M+1).

reactant | 4-amino-benzoic acid methyl ester | 1 g | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
reactant | benzyltrimethylammonium dichloroiodate | 2.763 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-amino-3-iodo-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)N)I)=O | C8H8INO2
